US09056112B2
1-[(4-Methyl-quinazolin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-bromoxanthine (4 gm) and methyl isobutyl ketone (MIBK 100 mL) were charged into a 1000 mL round bottomed flask equipped with a mechanical stirrer. Potassium carbonate (3.7 gm) and (R)-piperidine-3-amine dibenzoyl-D-tartrate (6.1 gm) were added to the reaction mixture at 26° C. The reaction mixture was heated to 100° C. and maintained at that temperature for 6 hours. The reaction mixture was cooled to 30° C. and filtered, and the salt was washed with MIBK (8 mL). The filtrate was charged into another flask and added slowly 10% aqueous acetic acid solution (40 mL) and stirred for one hour at 26° C. The aqueous layer was separated and washed with 12 mL of dichloromethane. The aqueous layer was charged into another flask and 40 mL of dichloromethane and 20 mL of 16% aqueous sodium hydroxide solution was added drop-wise at 26° C. The mixture was stirred for one hour at 26° C. and the organic layer was separated and the aqueous layer was extracted with 20 ml of dichloromethane. Combined the organic layers and evaporated under vacuum at below 45° C. Isopropyl alcohol (8 mL) was added to the residue and evaporated under vacuum at below 45° C. Isopropyl alcohol (16 mL) was added to the residue and stirred for 2 hours at 26° C. Filtered the compound and washed with isopropyl alcohol (4 mL) and dried the compound at 60° C. under vacuum to give 3.2 gm of Linagliptin. PXRD pattern: FIG. 2, Chemical Purity: 98.68%, Chiral Purity: 99.82%, S-isomer content: 0.12%, Regio impurity: 0.57%, Bromo impurity: 0.28%

reactant | 1-[(4-Methyl-quinazolin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-bromoxanthine | 4 gm | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C | C20H17BrN6O2
reactant | Potassium carbonate | 3.7 gm | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-piperidine-3-amine dibenzoyl-D-tartrate | 6.1 gm | C(C1=CC=CC=C1)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=CC=C1)=O)(O)C(=O)O.N1C[C@@H](CCC1)N
solvent | methyl isobutyl ketone | 100 mL | C(C(C)C)C(=O)C | C6H12O
product | Linagliptin | 3.2 gm | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C | C25H28N8O2
